US06503949B1
4-Aminomethylbenzoic acid methyl ester hydrochloride (1.45 g, 7.2 mmol) was suspended in 1,2-dichloroethane (50 mL) and added saturated aqueous potassium carbonate. The phases were separated and the aqueous layer was extracted with another portion of 1,2-dichloro-ethane (50 mL). The combined organic phases were added glacial acetic acid (435 μL, 7.6 mmol) followed by spiro[5.5]undecan-3-one (1.2 g, 7.2 mmol). The suspension was stirred for 30 min at 25° C. and sodium triacetoxyborohydride (2.27 g, 10.7 μmol) was added. After stirring for 2 days at 25° C., water (100 mL) and saturated aqueous potassium carbonate (15 mL) were added. The phases were separated and the aqueous layer was extracted with 1,2-di-chloroethane (2×100 mL). The combined organic phases were washed with water (100 mL) and brine (100 mL), dried over MgSO4 and evaporated to afford 4-(spiro[5.5]undec-3-ylaminomethyl)benzoic acid methyl ester which was used in the subsequent steps without further purification.

reactant | 4-Aminomethylbenzoic acid methyl ester hydrochloride | 7.2 mmol, 1.45 g | Cl.COC(C1=CC=C(C=C1)CN)=O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 7.6 mmol, 435 μL | C(C)(=O)O | C2H4O2
reactant | spiro[5.5]undecan-3-one | 7.2 mmol, 1.2 g | C1CC(CCC12CCCCC2)=O | C11H18O
reactant | sodium triacetoxyborohydride | 10.7 μmol, 2.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 15 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | water | 100 mL | O | H2O
product | 4-(spiro[5.5]undec-3-ylaminomethyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)CNC1CCC2(CC1)CCCCC2)=O | C20H29NO2
